US04296114
4-(4-Chlorophenyl)-2-[2-(N,N-diethylamino)ethylamino]-3,4-dihydro-3-oxopyrido[2,3-b]pyrazine
Preparation as in Example 39 but using 2-chloro-4-(4-chlorophenyl)-3,4-dihydro-3-oxopyrido[2,3-b]pyrazine and N,N-diethylethylene diamine in refluxing ethanol gave the title compound mp 149°-150° C.

reactant | 2-chloro-4-(4-chlorophenyl)-3,4-dihydro-3-oxopyrido[2,3-b]pyrazine | ClC1=NC2=C(N(C1=O)C1=CC=C(C=C1)Cl)N=CC=C2 | C13H7Cl2N3O
reactant | N,N-diethylethylene diamine | C(C)N(CCN)CC | C6H16N2
solvent | ethanol | C(C)O | C2H6O
product | 4-(4-Chlorophenyl)-2-[2-(N,N-diethylamino)ethylamino]-3,4-dihydro-3-oxopyrido[2,3-b]pyrazine | ClC1=CC=C(C=C1)N1C2=C(N=C(C1=O)NCCN(CC)CC)C=CC=N2 | C19H22ClN5O
